US06358954B1
Synthesis of 1,2-dimethyl 5,6-diamino benzimidazole:
Pure 1,2-dimethyl 5,6-dinitro benzimidazole (0.7 grams) and 0.2 grams Pd/C in 20 ml ethanol and 20 ml glacial acetic acid were hydrogenated for 4 hours. Filtering and evaporating resulted in 0.5 grams, 95% yield of a white solid having a melting point of 212° C.

reactant | 1,2-dimethyl 5,6-dinitro benzimidazole | 0.7 grams | CN1C(=NC2=C1C=C(C(=C2)[N+](=O)[O-])[N+](=O)[O-])C | C9H8N4O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.2 grams | [Pd] | Pd
product | 1,2-dimethyl 5,6-diamino benzimidazole | 0.5 grams, 95% yield | CN1C(=NC2=C1C=C(C(=C2)N)N)C | C9H12N4
